US03998834
To a stirred solution of 3.7 parts of (phenylmethyl) carbonochloridate and 2.1 parts of N,N-diethylethanamine in 75 parts of trichloromethane is added dropwise a solution of 4.6 parts of methyl 4-(phenylamino)-4-piperidinecarboxylate in 30 parts of trichloromethane (exothermic reaction: cooling with ice-water is necessary to keep the temperature below 25° C). Upon completion, stirring is continued for 5 hours at room temperature. The reaction mixture is washed twice with water, dried filtered and evaporated. The residue is purified by column-chromatography over silica gel using trichloromethane as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2-propanol, yielding 4.2 parts of O4 -methyl O1 -(phenylmethyl) 4-(phenylamino)-1,4-piperidinedicarboxylate; mp. 105.8° C.

reactant | (phenylmethyl) carbonochloridate | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | methyl 4-(phenylamino)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCNCC1)C(=O)OC | C13H18N2O2
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | O4 -methyl O1 -(phenylmethyl) 4-(phenylamino)-1,4-piperidinedicarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C21H24N2O4
